US06897231B2
A. 3-(4-Fluorophenyl)-5-[2-(2-pyridyl)ethyl]-1H-indazole
The title compound was prepared as described in Example 141 A, using 5-[(1 E)-2-pyridylvinyl]-3-(4-fluorophenyl)-1H-indazole (0.125 g, 0.4 mmol) in methanol and it was then purified by HPLC (0.060 g, 47% yield): 1H NMR (DMSO-d6) δ 13.14 (br s, 1H), 8.52 (d, 1H), 7.95 (m, 2H), 7.79 (s, 1H), 7.69 (ddd, 1H), 7.42 (dd, 1H), 7.22-7.35 (m, 5H), 3.12 (m, 4H); ES-MS (m/z) 318 [M+1]+.

reactant | 5-[(1 E)-2-pyridylvinyl]-3-(4-fluorophenyl)-1H-indazole | 0.4 mmol, 0.125 g | N1=C(C=CC=C1)/C=C/C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C20H14FN3
solvent | methanol | CO | CH4O
product | 3-(4-Fluorophenyl)-5-[2-(2-pyridyl)ethyl]-1H-indazole | 47% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)CCC1=NC=CC=C1 | C20H16FN3
